US04956372
7-Chloro-3,4-dihydro-2H-1,4-benzoxazine-5-carboxylic acid
To a stirred suspension of 8-chloro-2,3-dihydropyrrolo[1,2,3-de]-1,4-benzoxazine-5,6-dione (4.47 g) in water (50 ml) was added 2 N sodium hydroxide solution (30 ml), and the mixture was stirred to a solution. 30% hydrogen peroxide solution (20 ml) was added and stirred for an hour, insoluble material was filtered off and then acidified with concentrated hydrochloric acid. The yellow precipitate was collected by filtration, washed with water and dried to yield 3.44 g (80.5%) of the title compound. The compound was recrystallized from benzene (75 ml) to give pale yellow prisms, mp 209°-210° C.

reactant | 8-chloro-2,3-dihydropyrrolo[1,2,3-de]-1,4-benzoxazine-5,6-dione | 4.47 g | ClC=1C=C2C=3N(CCO2)C(C(C3C1)=O)=O | C10H6ClNO3
reactant | sodium hydroxide | 2 N, 30 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 20 ml | OO | H2O2
solvent | water | 50 ml | O | H2O
product | 7-Chloro-3,4-dihydro-2H-1,4-benzoxazine-5-carboxylic acid | 3.44 g, 80.5% | ClC=1C=C2C(NCCO2)=C(C1)C(=O)O | C9H8ClNO3
